US06117888
Step B: 4-Chloro-1-ethyloxycarbonylmethyl-3-nitro-2-pyridinone
Sodium hydride (60% dispersion in mineral oil, 7.5 g, 0.188 mol) was added to a stirred solution of 4-chloro-2-hydroxy-3-nitropyridine (23.68 g, 0.126 mol) in THF (250 mL) at 0° C. After 25 min ethyl bromoacetate (16.7 mL, 0.151 mol) was added and the reaction was warmed to 60° C. After 20 h the reaction was cooled and washed with brine acidified with 1M HCl. The organic layer was dried (Na2SO4) and evaporated in vacuo to a solid which was recrystallised from ethyl acetate/hexanes to give the title compound;

reactant | Sodium hydride | 0.188 mol, 7.5 g | [H-].[Na+]
reactant | 4-chloro-2-hydroxy-3-nitropyridine | 0.126 mol, 23.68 g | ClC1=C(C(=NC=C1)O)[N+](=O)[O-] | C5H3ClN2O3
reactant | ethyl bromoacetate | 0.151 mol, 16.7 mL | BrCC(=O)OCC | C4H7BrO2
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 4-Chloro-1-ethyloxycarbonylmethyl-3-nitro-2-pyridinone | ClC1=C(C(N(C=C1)CC(=O)OCC)=O)[N+](=O)[O-] | C9H9ClN2O5
